US06930100B2
Step C: (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid di-tert-butoxy-phosphoryloxymethyl ester ((S)-XV)
To a 25 mL flask containing 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid iodomethyl ester ((S)-XIV) (0.200 g, 0.368 mmol) was added 5 mL anhydrous tetrahydrofuran, and tetrabutylammonium di-t-butylphosphate (0.199 g, 0.441 mmol). The reaction was heated to reflux and allowed to stir for 1 hour. The reaction was then cooled to room temperature, and the solvent was evaporated in vacuo. The crude foam was purified by flash chromatography (silica gel 4:1 Hexanes: EtOAc) producing the title compound (0.110 g, 48%) as a clear colorless oil. 1H NMR (CDCl3 400 MHz): δ=8.35 (s, 1H), 7.78 (s, 1H), 7.48 (d, 1H, J=7 Hz), 7.34 (d, 1H, J=7 Hz), 7.30 (d, 1H, J=7 Hz), 6.76 (d, 1H, J=7 Hz), 5.90 (d, 1H, J=12.4 Hz), 3.53 (s, 3H), 1.50 (s, 18H).

reactant | 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid iodomethyl ester | 0.368 mmol, 0.200 g | ICOC(=O)N1C(C(C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O | C18H11ClF4INO4
reactant | tetrabutylammonium di-t-butylphosphate | 0.441 mmol, 0.199 g | C(C)(C)(C)OP(=O)(OC(C)(C)C)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid di-tert-butoxy-phosphoryloxymethyl ester | 0.110 g, 48% | C(C)(C)(C)OP(=O)(OCOC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)OC(C)(C)C | C26H29ClF4NO8P
